US07291631B2
Using General Procedure B: Reaction of 5,6,7,8-tetrahydro-quinolin-8-ylamine in CH2Cl2 with (2-formyl-pyridin-3-yl)-carbamic acid tert-butyl ester and NaBH(OAc)3 gave {2-[(5,6,7,8-tetrahydro-quinolin-8-ylamino)-methyl]-pyridin-3-yl}-carbamic acid tert-butyl ester as a yellow oil. 1H NMR (CDCl3) δ 1.51 (s, 9H), 1.85-1.94 (m, 2H), 1.98-2.08 (m, 2H), 2.78-2.84 (m, 2H), 3.82-3.86 (m, 1H), 4.19 (s, 2H), 7.11-7.19 (m, 2H), 7.42 (d, 1H, J=7.1 Hz), 8.15-8.17 (m, 1H), 8.28 (d, 1H, J=8.0 Hz), 8.44 (d, 1H, J=3.0 Hz), 10.17 (s, 1H).

reactant | 5,6,7,8-tetrahydro-quinolin-8-ylamine | N1=CC=CC=2CCCC(C12)N | C9H12N2
reactant | (2-formyl-pyridin-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C(=NC=CC1)C=O)=O | C11H14N2O3
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | {2-[(5,6,7,8-tetrahydro-quinolin-8-ylamino)-methyl]-pyridin-3-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C(=NC=CC1)CNC1CCCC=2C=CC=NC12)=O | C20H26N4O2
